US04052392
A suspension of 36.9 parts of cyanuric chloride in 250 parts of water at 0°-5° C was prepared. To the stirred suspension at this temperature were added separately over about 30 minutes a solution of ammonia (3.4 parts) in water (80 parts) concurrently with a solution of sodium hydroxide (8.0 parts) in water (80 parts). Stirring was continued at 0°-5° C for about 90 minutes after completion of the addition. The temperature of the mixture was then increased to 35° C and solutions of catechol (22 parts) in water (180 parts) and sodium hydroxide (8 parts) in water (70 parts) were added with stirring at this temperature over about 40 minutes. Stirring was continued for about 1 hour at 35° C when the reaction reached neutrality. The reaction mixture was cooled to 10° C and the product isolated by filtration, washed with water and dried. 2-amino-4-chloro-6 -(2'-hydroxyphenoxy)-s-triazine was thereby obtained as an off-white powder of indefinite melting point due to decomposition, analysing for carbon 43.2%, hydrogen 2.6%, nitrogen 23.2% and chlorine 14.3%. (C9H7ClN4O2 requires carbon 45.3%, hydrogen 2.9%, nitrogen 23.5% and chlorine 14.9%).

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | ammonia | N | H3N
reactant | catechol | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-amino-4-chloro-6 -(2'-hydroxyphenoxy)-s-triazine | NC1=NC(=NC(=N1)Cl)OC1=C(C=CC=C1)O | C9H7ClN4O2
